US06090825
A solution of 1-[4-(5-phenyl-oxazol-2-yl)-piperidin-1-yl]-ethanone (30.0 g, 110.99 mmol), prepared as part B, in MeOH (450 ml) is treated with a solution of NaOH (44.40 g, 1109.90 mmol) in water (150 ml), heated at 75° C. for 18 hours, and then the reaction mixture is concentrated to 1/3 volume. Upon addition of ca. an equal volume of water, crystallization occurred. The solids are filtered, washed with water and dried in a vacuum over at 70° C. to afford 4-(5-phenyl-oxazol-2yl)-piperidine as a white solid. 1HNMR (CDCl3): d 7.61 (d, 2H, J=7.4 Hz), 7.40 (t, 2H, J=7.4 Hz), 7.30 (t, 1H, J=7.4 Hz), 7.23 (s, 1H), 3.19 (d t, 2H, J=11.8, 3.3 hz), 2.99 (t t, 1H, J=11.8 3.9 Hz), 2.76 (m, 2H), 2.10 (m, 2H), 1.82 (m, 2H).

reactant | 1-[4-(5-phenyl-oxazol-2-yl)-piperidin-1-yl]-ethanone | 110.99 mmol, 30.0 g | C1(=CC=CC=C1)C1=CN=C(O1)C1CCN(CC1)C(C)=O | C16H18N2O2
reactant | NaOH | 1109.90 mmol, 44.40 g | [OH-].[Na+]
solvent | MeOH | 450 ml | CO | CH4O
solvent | water | 150 ml | O | H2O
product | 4-(5-phenyl-oxazol-2yl)-piperidine | C1(=CC=CC=C1)C1=CN=C(O1)C1CCNCC1 | C14H16N2O
